US08685969B2
5. Methyl 2-(bromomethyl)-5-methylbenzoate
A light yellow, homogeneous solution of methyl 2,5-dimethylbenzoate (4.467 g, 27.2 mmol), 1-bromopyrrolidine-2,5-dione (4.84 g, 27.2 mmol) and benzoic peroxyanhydride (0.659 g, 2.72 mmol) in benzene (136 mL) under nitrogen was refluxed. After 8.5 hr, the reaction was cooled to room temperature. The succinimide was filtered, rinsed with benzene and the filtrate was concentrated in vacuo. The residue was dissolved in EtOAc (100 mL) and washed with water (50 mL) and brine (50 mL), dried over MgSO4, and concentrated in vacuo to give crude product that was a mixture of the desired product and its regioisomer. This crude product was used in the next step without further purification.

reactant | methyl 2,5-dimethylbenzoate | 27.2 mmol, 4.467 g | CC1=C(C(=O)OC)C=C(C=C1)C | C10H12O2
reactant | 1-bromopyrrolidine-2,5-dione | 27.2 mmol, 4.84 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoic peroxyanhydride | 2.72 mmol, 0.659 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | benzene | 136 mL | C1=CC=CC=C1 | C6H6
product | Methyl 2-(bromomethyl)-5-methylbenzoate | BrCC1=C(C(=O)OC)C=C(C=C1)C | C10H11BrO2
